### PR TITLE
Add Erdős Problem 286 (Egyptian fractions in short intervals), link the formal proof

### LINKED ISSUE #6311: Erdős Problem 286
### What is the Erdős problem?

https://www.erdosproblems.com/286

Let $k\geq 2$. Is it true that there exists an interval $I$ of width $(e-1+o(1))k$ and integers $n_1<\cdots<n_k\in I$ such that $1=\frac{1}{n_1}+\cdots+\frac{1}{n_k}$?

Status: proved by Croot [Cr01]. A formal proof exists in plby/lean-proofs (`Erdos286.erdos_286`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6311.

### What changed
Adds `FormalConjectures/ErdosProblems/286.lean`:
- `erdos_286` (`research solved`, `answer(True)`): for all large `k` there is an interval of width `(e - 1 + o(1)) k` containing `k` distinct integers whose reciprocals sum to `1` (Croot [Cr01]). Linked to plby/lean-proofs `Erdos286.erdos_286` (Codex and GPT-5.6 Sol; 38 Mathlib-only files, built on the Erdős 285 development).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos286.erdos_286` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby uses a strictly monotone `Fin k → ℕ` and `o =o[atTop] 1`; the bridge passes to the image finset and to `Tendsto o atTop (𝓝 0)`):

<details>
<summary>Bridge</summary>

```lean
open Filter Real

namespace Bridge286

theorem erdos_286_bridge : type_of% Erdos286.erdos_286 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨o, ho, hk⟩ := Erdos286Plby.erdos_286
  refine ⟨o, (Asymptotics.isLittleO_one_iff ℝ).1 ho, ?_⟩
  filter_upwards [hk] with k ⟨_, a, b, hab, n, hn, h0, hsum, hI⟩
  refine ⟨a, b, hab, Finset.univ.image n, ?_, ?_, ?_, ?_⟩
  · rw [Finset.card_image_of_injective _ hn.injective, Finset.card_univ, Fintype.card_fin]
  · simp only [Finset.mem_image, Finset.mem_univ, true_and, not_exists]
    exact fun i hi => h0 ⟨i, hi⟩
  · rw [Finset.sum_image (fun i _ j _ h => hn.injective h)]
    exact hsum.symm
  · simp only [Finset.mem_image, Finset.mem_univ, true_and, forall_exists_index]
    rintro m i rfl
    exact hI i

#print axioms Erdos286Plby.erdos_286
#print axioms erdos_286_bridge

end Bridge286
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«286»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/286.lean [hunk 1]
```diff
@@ -0,0 +1,52 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/286.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
